US08802713B2
60 mg of 5-acetylamino-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-(1,1,2,2,3,3,3-heptafluoropropoxy)pyrazole was dissolved in 10 mL of chloroform, and 30 mg of m-chloroperbenzoic acid (purity: 75%) was added under cooling with ice. After stirring for 30 minutes under cooling with ice, the solution was washed with an aqueous sodium thiosulfate solution and then washed with an aqueous potassium carbonate solution, and then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the obtained residue was purified by column chromatography (developing solvent ethyl acetate:hexane=1:2) to obtain 53mg of 5-acetylamino-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylsulfinyl)phenyl}-3-(1,1,2,2,3,3,3-heptafluoropropoxy)pyrazole.

reactant | 5-acetylamino-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-(1,1,2,2,3,3,3-heptafluoropropoxy)pyrazole | 60 mg | C(C)(=O)NC1=CC(=NN1C1=C(C=C(C(=C1)SCC(F)(F)F)C)F)OC(C(C(F)(F)F)(F)F)(F)F | C17H12F11N3O2S
reactant | m-chloroperbenzoic acid | 30 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | 5-acetylamino-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylsulfinyl)phenyl}-3-(1,1,2,2,3,3,3-heptafluoropropoxy)pyrazole | 53mg | C(C)(=O)NC1=CC(=NN1C1=C(C=C(C(=C1)S(=O)CC(F)(F)F)C)F)OC(C(C(F)(F)F)(F)F)(F)F | C17H12F11N3O3S
